US06235787B1
0.183 g of thiophenol and 0.356 ml of triethylamine were added to a solution of 0.500 g of 2(R)-[1(tertbutoxycarbonyl)vinyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in 20 of toluene and stirring under a nitrogen atmosphere was continued for 48 hours. A further 0.183 ml of thiophenol was added to the mixture and stirring was continued for 48 hours at 60° C. The mixture was then cooled to room temperature and diluted with ethyl acetate. The mixture was washed in succession with 1M aqueous hyrochloric acid, 1M aqueous sodium hydroxide and brine. The organic phase was dried over anhydrous magnesium sulphate and the solvent was evaporated. Trituration with hexane gave 0.307 g of 2(R)-[1(S)-(tertbutoxycarbonyl)-2-(phenylthio)ethyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide in the form of a white solid.

reactant | thiophenol | 0.183 g | C1(=CC=CC=C1)S | C6H6S
reactant | triethylamine | 0.356 ml | C(C)N(CC)CC | C6H15N
reactant | 2(R)-[1(tertbutoxycarbonyl)vinyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.500 g | C(C)(C)(C)OC(=O)C(=C)[C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C | C18H34N2O5S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
reactant | thiophenol | 0.183 ml | C1(=CC=CC=C1)S | C6H6S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2(R)-[1(S)-(tertbutoxycarbonyl)-2-(phenylthio)ethyl]-2′-isobutyl-2′-(methanesulphonyl)-4-methylvalerohydrazide | 0.307 g | C(C)(C)(C)OC(=O)[C@@H](CSC1=CC=CC=C1)[C@H](C(=O)NN(S(=O)(=O)C)CC(C)C)CC(C)C | C24H40N2O5S2
